US06011039
(1) Preparation of 2-[N-tert-butoxycarbonyl-N-(3-methyl-5-nitrobenzyl)amino]-6-(5-ethyl-1,3,4-thiadiazol-2-ylthiomethyl)-4-morpholinopyridine
To a solution of tert-butyl N-[6-(5-ethyl-1,3,4-thiadiazol-2-ylthiomethyl)-4-morpholino-2-pyridyl]carbamate (200 mg) obtained in Example 1-(5) in dimethylformamide (2 ml), 60% sodium hydride (30 mg) was added under cooling with ice, followed by stirring at the same temperature for 30 minutes. A solution of 3-methyl-5-nitrobenzyl methanesulfonate (283 mg) in dimethylformamide (1 ml), was added to the reaction solution, followed by stirring at room temperature overnight. The reaction solution was diluted with ethyl acetate, washed with water and a saturated sodium hydrogen carbonate aqueous solution and dried over anhydrous magnesium sulfate. Then, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (heptane/ethyl acetate=1:1) to obtain the above identified compound (314 mg) as a pale yellow oily substance.

reactant | tert-butyl N-[6-(5-ethyl-1,3,4-thiadiazol-2-ylthiomethyl)-4-morpholino-2-pyridyl]carbamate | 200 mg | C(C)C1=NN=C(S1)SCC1=CC(=CC(=N1)NC(OC(C)(C)C)=O)N1CCOCC1 | C19H27N5O3S2
reactant | sodium hydride | 30 mg | [H-].[Na+]
reactant | 3-methyl-5-nitrobenzyl methanesulfonate | 283 mg | CS(=O)(=O)OCC1=CC(=CC(=C1)[N+](=O)[O-])C | C9H11NO5S
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[N-tert-butoxycarbonyl-N-(3-methyl-5-nitrobenzyl)amino]-6-(5-ethyl-1,3,4-thiadiazol-2-ylthiomethyl)-4-morpholinopyridine | C(C)(C)(C)OC(=O)N(CC1=CC(=CC(=C1)[N+](=O)[O-])C)C1=NC(=CC(=C1)N1CCOCC1)CSC=1SC(=NN1)CC | C27H34N6O5S2
